US06794397B2
6-Methyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-methylnicotinic acid and 4-ethoxy-2-nitroaniline and was obtained as a yellow solid as described in Example 15. 1H NMR (CDCl3): 11.09 (s, 1H), 9.12 (d, J=2.1, 1H), 8.85 (d, J=9.3, 1H), 8.16-8.13 (m, 1H), 7.73 (d, J=3.0, 1H), 7.34-7.29 (m, 2H), 4.11 (q, J=6.9, 2H), 2.67 (s, 3H), 1.46 (t, J=6.9, 3H).

reactant | 6-methylnicotinic acid | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 6-Methyl-N-(4-ethoxy-2-nitrophenyl)-3-pyridinecarboxamide | CC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C15H15N3O4
